USRE030241
3,4-Dihydroxyphenyl 1-(tert-butylaminomethyl)ethyl ketone hydrochloride (8 g.) was reacted with 18 ml. of pivalyl chloride in 35 ml. of trifluoroacetic acid, the resulting ester-amine salt was converted to the ester-amine, and the ester-amine was treated with hydrochloric acid to yield 10.5 g. of 3,4-bis-(pivalyloxy)phenyl tert-butylaminomethyl ketone hydrochloride, m.p. 200°-202° C. (uncorr.). This ketone was catalytically hydrogenated in the presence of palladium-on-charcoal catalyst to yield 3,4-bis(pivalyloxy)-alpha-(tert-butylaminomethyl)benzyl alcohol hydrochloride as a white crystalline solid which melted at 205°-207° C. (uncorr.).

reactant | 3,4-Dihydroxyphenyl 1-(tert-butylaminomethyl)ethyl ketone hydrochloride | 8 g | Cl.C(C)(C)(C)NCC(C)C(=O)C1=CC(=C(C=C1)O)O
reactant | pivalyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrochloric acid | Cl | ClH
reactant | 3,4-bis-(pivalyloxy)phenyl tert-butylaminomethyl ketone hydrochloride | Cl.C(C)(C)(C)NCC(=O)C1=CC(=C(C=C1)OC(C(C)(C)C)=O)OC(C(C)(C)C)=O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 3,4-bis(pivalyloxy)-alpha-(tert-butylaminomethyl)benzyl alcohol hydrochloride | Cl.C(C(C)(C)C)(=O)OC=1C=C(C(CNC(C)(C)C)O)C=CC1OC(C(C)(C)C)=O | InChI=1S/C22H35NO5.ClH/c1-20(2,3)18(25)27-16-11-10-14(15(24)13-23-22(7,8)9)12-17(16)28-19(26)21(4,5)6;/h10-12,15,23-24H,13H2,1-9H3;1H
